US06191138B1
20. (+/−)-cis-6-[4-(N-methylaminocarbonyl)phenyl]-8,9-dimethoxy-1,2,3,4,4a ,10b-hexahydrophenanthridine
680 mg of (+/−)-cis-8,9-dimethoxy-6-[4-(methoxycarbonyl)phenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine with 25 mg of sodium cyanide in 13 ml of 9 molar methylamine solution in ethanol are heated to 90° C. in an autoclave for 10 h. The solution is concentrated under reduced pressure and the residue is taken up in methylene chloride and extracted with water. The organic phase is dried with sodium sulfate, the solvent is removed under reduced pressure and the residue is treated with diethyl ether, filtered off with suction and dried. This gives 380 mg (56.1 % of Th.) of the title compound of m.p. 209-211° C.

reactant | (+/−)-cis-8,9-dimethoxy-6-[4-(methoxycarbonyl)phenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine | 680 mg | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)C(=O)OC | C23H25NO4
reactant | sodium cyanide | 25 mg | [C-]#N.[Na+]
solvent | methylamine | 9 molar, 13 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | (+/−)-cis-6-[4-(N-methylaminocarbonyl)phenyl]-8,9-dimethoxy-1,2,3,4,4a ,10b-hexahydrophenanthridine | CNC(=O)C1=CC=C(C=C1)C1=N[C@H]2CCCC[C@H]2C2=CC(=C(C=C12)OC)OC | C23H26N2O3
